US07678801B2
79c) 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide
To the solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide (1.37 g, 2.54 mmol) in DCM (127 mL) were added Et3N (1.78 mL, 12.7 mmol) and (1H-imidazol-2-yl)-methylamine dihydrochloride (0.625 g, 3.81 mmol). The mixture was stirred at room temperature over night and concentrated under vacuum. Flash chromatography [mobile phase DCM/DCM (90)+MeOH(7)+NH4OH(3)] then provided the title compound as a white solid 1.23 g (85%). MS (ES) m/z 571 (M+H)+; 1H-NMR (MeOD) δ 2.16 (s, 1.5 H), 2.32 (s, 1.5 H), 3.18 (d, J=4.4 Hz, 0.75 H), 4.11 (d, J=5.2 Hz, 0.25 H), 4.21 (d, J=5.0 Hz, 1 H), 4.50 (m, 1 H), 6.37 (d, J=9.6 Hz, 1 H), 6.85 (s, 2 H), 7.29 (s, 2 H), 7.43 (m, 2 H), 7.57 (m, 3 H), 8.18 (m, 3 H), 11.60 (s, br, 1H), 12.64 (s, br, 2 H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | 2.54 mmol, 1.37 g | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)S(=O)C)=O | C25H17F2N5O3S2
reactant | Et3N | 12.7 mmol, 1.78 mL | CCN(CC)CC | C6H15N
reactant | (1H-imidazol-2-yl)-methylamine dihydrochloride | 3.81 mmol, 0.625 g | Cl.Cl.N1C(=NC=C1)NC
solvent | DCM | 127 mL | C(Cl)Cl | CH2Cl2
product | 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide | 1.23 g, 85% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)NCC=2NC=CN2)=O | C28H20F2N8O2S
